US05294713
WORKING EXAMPLE 67 N-(2,2-Diethoxyethyl)-L-alanine t-butyl ester
L-Alanine-t-butyl ester was allowed to react with 2-bromo-1,1-diethoxyethane in substantially the same manner as in Working Example 52 to afford the title compound as a yellowish brown oily product.

reactant | L-Alanine-t-butyl ester | C(C)(C)(C)OC([C@@H](N)C)=O | C7H15NO2
reactant | 2-bromo-1,1-diethoxyethane | BrCC(OCC)OCC | C6H13BrO2
product | N-(2,2-Diethoxyethyl)-L-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](NCC(OCC)OCC)C)=O | C13H27NO4
